US04511391
(i)(a) A mixture of 3,4-dihydroxybenzaldehyde (10.0 g), ethylene dibromide (13.61 g), copper powder (trace), sodium hydroxide (5.80 g) and ethanol (500 ml) was heated at reflux for 2 days. Subsequently, the solvent was evaporated and the residue was dissolved in dichloromethane. The organic phase was shaken with a little water and then dried over anhydrous magnesium sulphate. The solvent was evaporated and the residue was purified by column chromatography over silica gel (eluant dichloromethane) giving 3,4-ethylenedioxybenzaldehyde as an oil. The product was characterized by proton nuclear magnetic resonance spectroscopy. Pmr spectrum (CDCl3 ; δ in ppm): 4.35 (4H, s); 6.98 (1H, d); 7.40 (2H, m); 9.70 (1H, s).

reactant | 3,4-dihydroxybenzaldehyde | 10.0 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | ethylene dibromide | 13.61 g | C(CBr)Br | C2H4Br2
reactant | sodium hydroxide | 5.80 g | [OH-].[Na+]
catalyst | copper | [Cu] | Cu
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3,4-ethylenedioxybenzaldehyde | C1OC=2C=C(C=O)C=CC2OC1 | C9H8O3
